US06884801B1
2-Amino-N,N-dimethylbenzamide (prepared from dimethylamine [2M in tetrahydrofuran]and isatoic anhydride, using the methods described in Example 17) and CMI were reacted using conditions described in the general procedure for CMI coupling to give 2-[(4,5-dihydro-1H-imidazol-2-ylmethyl)amino]-N,N-dimethylbenzamide.

reactant | 2-Amino-N,N-dimethylbenzamide | NC1=C(C(=O)N(C)C)C=CC=C1 | C9H12N2O
reactant | dimethylamine | 2M | CNC | C2H7N
reactant | isatoic anhydride | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
product | 2-[(4,5-dihydro-1H-imidazol-2-ylmethyl)amino]-N,N-dimethylbenzamide | N1C(=NCC1)CNC1=C(C(=O)N(C)C)C=CC=C1 | C13H18N4O
